US04281000
3-Bromo-7-(3-pyridyl)pyrazolo[1,5-a]pyrimidine
A mixture of 1.96 g. of 7-(3-pyridyl)pyrazolo[1,5-a]-pyrimidine and 1.97 g. of N-bromosuccinimide in 100 ml. of dichloromethane is heated on a steam bath for 15 minutes. The mixture is poured into ice cold 2.5 N sodium hydroxide. The organic layer is separated and dried then is passed through a column of hydrous magnesium silicate. The column is washed with dichloromethane and the eluent is concentrated and diluted with hexane to give 1.8 g. of the product of the example, m.p. 243°-244° C.

reactant | 7-(3-pyridyl)pyrazolo[1,5-a]-pyrimidine | N1=CC(=CC=C1)C1=CC=NC=2N1N=CC2 | C11H8N4
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-Bromo-7-(3-pyridyl)pyrazolo[1,5-a]pyrimidine | BrC=1C=NN2C1N=CC=C2C=2C=NC=CC2 | C11H7BrN4
